US06982348B2
To a solution of (1RS,2RS)-2-amino-1-(2-phenyl-1,3-thiazol-4-yl)-3-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]-1-propanol (311 mg, 0.73 mmol) in N,N-dimethylformamide (10 ml) were added 4-fluoronaphthalene-1-carboxylic acid (133 mg, 0.70 mmol) and 1-hydroxybenzotriazole monohydrate (112 mg, 0.73 mmol), and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (140 mg, 0.73 mmol) was finally added. The mixture was stirred at room temperature for 3 days. The mixture was diluted with ethyl acetate, washed with saturated aqueous sodium hydrogen carbonate solution, water and saturated brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=5:1, 1:2) and recrystallization (hexane-ethyl acetate) to give 4-fluoro-N-{(1RS,2RS)-2-hydroxy-2-(2-phenyl-1,3-thiazol-4-yl)-1-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]ethyl}-1-naphthamide (217 mg, 52%) as colorless crystals.

reactant | (1RS,2RS)-2-amino-1-(2-phenyl-1,3-thiazol-4-yl)-3-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]-1-propanol | 0.73 mmol, 311 mg | NC(C(O)C=1N=C(SC1)C1=CC=CC=C1)CC1=CC(=CC=C1)OC(C(F)F)(F)F | C20H18F4N2O2S
reactant | 4-fluoronaphthalene-1-carboxylic acid | 0.70 mmol, 133 mg | FC1=CC=C(C2=CC=CC=C12)C(=O)O | C11H7FO2
reactant | 1-hydroxybenzotriazole monohydrate | 0.73 mmol, 112 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.73 mmol, 140 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-fluoro-N-{(1RS,2RS)-2-hydroxy-2-(2-phenyl-1,3-thiazol-4-yl)-1-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]ethyl}-1-naphthamide | 217 mg, 52% | FC1=CC=C(C2=CC=CC=C12)C(=O)NC(C(C=1N=C(SC1)C1=CC=CC=C1)O)CC1=CC(=CC=C1)OC(C(F)F)(F)F | C31H23F5N2O3S
